US08071643B2
Step A. N-tert-Butoxycarbonyl-(3-cyclohex-3-enyl-propyl)-carbamic acid tert-butyl ester
Sodium hydride (60% in mineral oil, 2.5 g, 62.5 mmol, corrected) was added in several portions over a period of 15 min to an ice-cold mixture of di-tert-butyl-iminodicarboxylate (22.0 g, 100 mmol) in 60 ml of dimethyl formamide and 180 ml of tetrahydrofuran under stirring. A solution of toluene-4-sulfonic acid 3-cyclohex-3-enyl-propyl ester (Marvell, E.; Sturmer, D.; Kunston, R. Journal of Organic Chemistry 1968, 33, 2991-2993) (14.8 g, 50.0 mmol) in a mixture of 15 ml of dimethyl formamide and 45 ml of tetrahydrofuran was charged to it dropwise over 30 minutes. The mixture was stirred for 7 hours at 70° C. and 16 hours at room temperature, diluted with water and extracted with tert-butyl methyl ether. The organic extract was washed with water, brine and stripped of the solvent to give a mixture. After chromatography of the mixture (silica, toluene/cyclohexane=75/25) the title compound (ethyl acetate/toluene=15/85, Rf=0.19, 14.7 g, 86% yield, uncorrected) was obtained as clear yellow oil.

reactant | Sodium hydride | 62.5 mmol, 2.5 g | [H-].[Na+]
reactant | di-tert-butyl-iminodicarboxylate | 100 mmol, 22.0 g | C(C)(C)(C)OC(=O)NC(=O)OC(C)(C)C | C10H19NO4
reactant | toluene-4-sulfonic acid 3-cyclohex-3-enyl-propyl ester | 50.0 mmol, 14.8 g | C1(CC=CCC1)CCCOS(=O)(=O)C1=CC=C(C=C1)C | C16H22O3S
reactant | toluene cyclohexane | C1(=CC=CC=C1)C.C1CCCCC1
solvent | dimethyl formamide | 60 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
solvent | dimethyl formamide | 15 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-tert-Butoxycarbonyl-(3-cyclohex-3-enyl-propyl)-carbamic acid tert-butyl ester | 14.7 g, 86% yield | C(C)(C)(C)OC(N(C(=O)OC(C)(C)C)CCCC1CC=CCC1)=O | C19H33NO4
